US05688654
A solution containing N-(2-Nitrophenyl)-N'-(3-bromo-4-ethoxyphenyl)-urea (5.76 g) and chloroacetyl chloride (413 mL) was refluxed under nitrogen for 30 min. After the excess chloroacetyl chloride was removed in vacuo. diethyl ether (50 mL) was added and the resulting solid was filtered and dried to yield N'-(2-chloroacetyl)-N-(2-nitrophenyl)-N'-(3-bromo-4-ethoxyphenyl)-urea as a white solid.

reactant | N-(2-Nitrophenyl)-N'-(3-bromo-4-ethoxyphenyl)-urea | 5.76 g | [N+](=O)([O-])C1=C(C=CC=C1)NC(=O)NC1=CC(=C(C=C1)OCC)Br | C15H14BrN3O4
reactant | chloroacetyl chloride | 413 mL | ClCC(=O)Cl | C2H2Cl2O
product | N'-(2-chloroacetyl)-N-(2-nitrophenyl)-N'-(3-bromo-4-ethoxyphenyl)-urea | ClCC(=O)N(C(NC1=C(C=CC=C1)[N+](=O)[O-])=O)C1=CC(=C(C=C1)OCC)Br | C17H15BrClN3O5
